US06387935B1
At room temperature, 0.54 g of 2-benzylsulfanyl-thioacetamide were dissolved in 10 ml of dry acetone and mixed with 0.67 g of 2-bromo-5-chlorindan-1-on, and the mixture was stirred at room temperature for 4 h. The resulting precipitate was filtered off with suction, washed with acetone, taken up in ethyl acetate, mixed with saturated sodium bicarbonate solution and extracted twice. The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure. This synthesis yielded 2-benzylsulfanylmethyl-6-chloro-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol having a melting point of 102-104° C.

reactant | 2-benzylsulfanyl-thioacetamide | 0.54 g | C(C1=CC=CC=C1)SCC(=S)N | C9H11NS2
reactant | 2-bromo-5-chlorindan-1-on | 0.67 g | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-benzylsulfanylmethyl-6-chloro-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol | C(C1=CC=CC=C1)SCC=1SC2C(N1)(C=1C=CC(=CC1C2)Cl)O | C18H16ClNOS2
